US04900752
7,8-dihydro-6,6-dimethyl-7-hydroxy-8-(1-piperidinyl)-6H-pyrano [2,3-f] benzo-2,1,3-oxadiazole
A mixture of 297 mg (0.93 m mol) of 7,8-dihydro-6,6-dimethyl-7-hydroxy-8-(1-piperidinyl)-6H-pyrano [2,3-f] benzo-2,1,3-oxadiazole 3-oxide, 6 ml of ethylene glycol and 60 mg (0.93 m mol) of NaN3 was heated to 140° C. and reacted for 1.2 hours. After cooling, the reaction solution was poured into water and extracted thrice with chloroform. After the combined chloroform layer was dried over anhydrous sodium sulfate, the solvent was distilled off. The residue was subjected to a silica gel column chromatography using a developing solvent of ethyl acetate-hexane (1:3 (v/v)) to obtain 84 mg (yield: 30%) of the intended compound as oil. A part of the obtained compound was dissolved in ethanol-ethyl ether and added with HCl--EtOH to obtain the hydrochloride of the intended compound as pale yellow crystals.

reactant | 7,8-dihydro-6,6-dimethyl-7-hydroxy-8-(1-piperidinyl)-6H-pyrano [2,3-f] benzo-2,1,3-oxadiazole 3-oxide | 297 mg | CC1(C(C(C=2C(=CC=3C(=NO[N+]3[O-])C2)O1)N1CCCCC1)O)C | C16H21N3O4
reactant | ethylene glycol | 6 ml | C(CO)O | C2H6O2
reactant | NaN3 | 60 mg | [N-]=[N+]=[N-].[Na+]
solvent | water | O | H2O
product | 7,8-dihydro-6,6-dimethyl-7-hydroxy-8-(1-piperidinyl)-6H-pyrano [2,3-f] benzo-2,1,3-oxadiazole | 84 mg, yield: 30% | CC1(C(C(C=2C(=CC=3C(=NON3)C2)O1)N1CCCCC1)O)C | C16H21N3O3
